US05319100
1-(N-acetoxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-16)
To a solution of 1-(N-hydroxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-6) (222 mg, 0.6 mmole) dissolved into pyridine (3 ml), 1.8 ml of acetic anhydride was added and the mixture was stirred at room temperature for 5 hours, then the resulting mixture was evaporated. Hydrochloric acid (0.5N) was added thereto, and the mixture was subjected to extraction with dichloromethane. The organic layer was washed with water, sodium bicarbonate, and water in order, dried over magnesium sulfate, and evaporated. The obtained residue was recrystallized from dichloromethane/ether, whereby 211 mg of the objective compound (Ia-16) was obtained in 84% yield.

reactant | 1-(N-hydroxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 0.6 mmole, 222 mg | ON(C(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C21H30N2O4
reactant | acetic anhydride | 1.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(N-acetoxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)pyrrolidin-2-one | 211 mg, 84% yield | C(C)(=O)ON(C(=O)N1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C | C23H32N2O5
